US03995056
830 mg of 3-(3'-p-chlorobenzoyl-2'-methyl-phenyl)propionic acid and 4.2 ml of thionyl chloride were refluxed for 3 hours and then excess thionyl chloride was distilled off and the last traces were removed by entrainment with benzene to obtain 876 mg of 3-(3'-p-chlorobenzoyl-2'-methyl-phenyl)propionyl chloride which was used as is for the next step.

reactant | 3-(3'-p-chlorobenzoyl-2'-methyl-phenyl)propionic acid | 830 mg | ClC1=CC=C(C(=O)C=2C(=C(C=CC2)CCC(=O)O)C)C=C1 | C17H15ClO3
reactant | thionyl chloride | 4.2 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(3'-p-chlorobenzoyl-2'-methyl-phenyl)propionyl chloride | 876 mg | ClC1=CC=C(C(=O)C=2C(=C(C=CC2)CCC(=O)Cl)C)C=C1 | C17H14Cl2O2
